US05658491
Preparation of 5-Octyl-2-[4-(6-(2-(nonafluorobutoxy)-2,2 -difluoroethoxy)hexyloxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-octyl-2-(4-hydroxyphenyl)pyrimidine (8.0 g, 28.13 mmol) and 6-(2-(nonafluorobutoxy)-2,2-difluoroethoxy)-1-bromohexane (14.15 g, 29.54 mmol; prepared by combining 1,6-dibromohexane with 2-(nonafluorobutoxy)-2,2-difluoroethanol). After refluxing overnight, the resulting crude product was isolated by filtration and further purified by recrystallization from ethanol, followed by Kugelrohr distillation (b.p. 200° C. at 0.25 torr).

reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 28.13 mmol, 8.0 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | 6-(2-(nonafluorobutoxy)-2,2-difluoroethoxy)-1-bromohexane | 29.54 mmol, 14.15 g | FC(C(C(OC(COCCCCCCBr)(F)F)(F)F)(F)F)(C(F)(F)F)F | C12H14BrF11O2
product | 5-Octyl-2-[4-(6-(2-(nonafluorobutoxy)-2,2 -difluoroethoxy)hexyloxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCOCC(F)(F)OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C30H37F11N2O3
